US07605170B2
Diethylazodicarboxylate (1.89 mL, 12 mmol) was added dropwise to a solution of 3-endo-hydroxy-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (2.27 g, 10 mmol), triphenylphosphine (3.15 g, 12 mmol) and 3-phenoxyphenol (1.93 mL, 12 mmol) in THF (60 mL). The reaction mixture was stirred under a nitrogen atmosphere for 72 h at ambient temperature. Volatiles were removed under reduced pressure. The resultant material was dissolved in DCM (50 mL) and TFA (5 mL) added. The reaction mixture was stirred at ambient temperature for 12 h. Volatiles were removed under reduced pressure, the crude product dissolved in methanol (40 mL) and the solution loaded onto a SCX cartridge (20 g). The cartridge was eluted with methanol (40 mL) to remove triphenylphosphine oxide. Elution with ammonia in methanol (2M, 40 mL) followed by evaporation in vacuo afforded crude 3-(3-phenoxyphenoxy)-8-azabicyclo[3.2.1]octane as an oil. The crude material was then purified by chromatography on silica gel. Elution with 98:2 DCM:MeOH with a gradient to 90:10:0.5 DCM:MeOH:ammonia, afforded the product as an oil. The product was dissolved in methanol (5 mL) and treated with hydrochloric acid in methanol until the solution was acidic. The solution was concentrated in vacuo and diethyl ether was added to precipitate the product. The precipitate was collected by filtration and recrystallised from methanol/diethyl ether to afford 3-exo-(3-phenoxyphenoxy)-8-azabicyclo[3.2.1]octane as the hydrochoride salt (1.08 g, 3.26 mmol, 33%). M.S. (ESI) (m/z): 296 [M+H]+.

reactant | Diethylazodicarboxylate | 12 mmol, 1.89 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 12 mmol, 3.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-phenoxyphenol | 12 mmol, 1.93 mL | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | THF | 60 mL | C1CCOC1 | C4H8O
product | 3-(3-phenoxyphenoxy)-8-azabicyclo[3.2.1]octane | O(C1=CC=CC=C1)C=1C=C(OC2CC3CCC(C2)N3)C=CC1 | C19H21NO2
